US04406828
16.8 g of 1,1-dimethyl-tetralin-4-carboxylic acid are treated dropwise in 200 ml of absolute ether under a nitrogen or argon atmosphere with 99.2 ml of a 2 molar solution of methyl lithium in ether (198.4 mmol). The mixture is stirred at room temperature for 1 hour and subsequently held at reflux temperature for a further 1 hour. The mixture is poured into saturated ammonium chloride solution, extracted with ether, washed neutral with water and dried over sodium sulphate. The ether is evaporated and the residue is fractionally distilled. There are obtained 8.4 g of 1,1-dimethyl-4-acetyl-tetralin of boiling point 69° C./0.07 mmHg; nD20 =1.5333; yield 50%. Odour: see (5).

reactant | 1,1-dimethyl-tetralin-4-carboxylic acid | 16.8 g | CC1(CCC(C2=CC=CC=C12)C(=O)O)C | C13H16O2
reactant | methyl lithium | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 198.4 mmol | CCOCC | C4H10O
product | 1,1-dimethyl-4-acetyl-tetralin | 8.4 g, yield 50% | CC1(CCC(C2=CC=CC=C12)C(C)=O)C | C14H18O
